US07585885B2
2-(R)-[2-(S)-[Bis-(2-methylbenzyl)-amino]-3-(3,5-difluorophenyl)-1-(S)-hydroxypropyl]-pyrrolidine-1-carboxylic acid tert-butyl ester
Add 2-[2-(S)-[bis-(2-methylbenzyl)-amino]-3-(3,5-difluorophenyl)-1-(S)-hydroxypropyl]-pyrrole-1-carboxylic acid tert-butyl ester (0.415 g, 0.74 mmol), 10% platinum on carbon (0.087 g) and methanol (15 mL) and hydrogenate at one atmosphere hydrogen gas for 1-8 h. Add filter agent and filter, concentrate and purify (silica gel chromatography, eluting with hexanes and ethyl acetate) to give the title compound as a white foam (0.116 g, 28%).

reactant | 2-[2-(S)-[bis-(2-methylbenzyl)-amino]-3-(3,5-difluorophenyl)-1-(S)-hydroxypropyl]-pyrrole-1-carboxylic acid tert-butyl ester | 0.74 mmol, 0.415 g | C(C)(C)(C)OC(=O)N1C(=CC=C1)[C@H]([C@H](CC1=CC(=CC(=C1)F)F)N(CC1=C(C=CC=C1)C)CC1=C(C=CC=C1)C)O | C34H38F2N2O3
reactant | hydrogen | [H][H] | H2
catalyst | platinum on carbon | 0.087 g | [Pt] | Pt
solvent | methanol | 15 mL | CO | CH4O
product | 2-(R)-[2-(S)-[Bis-(2-methylbenzyl)-amino]-3-(3,5-difluorophenyl)-1-(S)-hydroxypropyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.116 g, 28% | C(C)(C)(C)OC(=O)N1[C@H](CCC1)[C@H]([C@H](CC1=CC(=CC(=C1)F)F)N(CC1=C(C=CC=C1)C)CC1=C(C=CC=C1)C)O | C34H42F2N2O3
